US06927214B1
2-(3,4-Dichlorophenyl)-6,7-dinitroquinoxaline
48% aqueous HBr (8.8 M) (3.4 ml, 30 mmol) was slowly added to a stirred solution of 3,4-dichloroacetophenone (1.89 g, 10 mmol) in DMSO (17 ml). The solution was stirred in an open flask at 55° C. for 24 hours. The solution was poured onto ice, the solid product was filtered, washed with water, and redissolved in ethanol (18 ml). 4,5-Dinitro-1,2-phenylene-diamine (890 mg, 4.5 mmol) was added and the mixture was heated to reflux for 4 hours.

reactant | HBr | 30 mmol, 8.8 M, 3.4 ml | Br | BrH
reactant | 3,4-dichloroacetophenone | 10 mmol, 1.89 g | CC(=O)C1=CC(=C(C=C1)Cl)Cl | C8H6Cl2O
reactant | 4,5-Dinitro-1,2-phenylene-diamine | 4.5 mmol, 890 mg | [N+](=O)([O-])C1=CC(=C(C=C1[N+](=O)[O-])N)N | C6H6N4O4
solvent | DMSO | 17 ml | CS(=O)C | C2H6OS
product | 2-(3,4-Dichlorophenyl)-6,7-dinitroquinoxaline | ClC=1C=C(C=CC1Cl)C1=NC2=CC(=C(C=C2N=C1)[N+](=O)[O-])[N+](=O)[O-] | C14H6Cl2N4O4
